US09079866B2
5-{2-Fluoro-4-[2-(tetrahydro-2H-pyran-4-yloxy)pyridin-3-yl]phenyl}pyrimidin-2-amine
The title compound was prepared in a manner similar to that described in Example 88 using 3-bromo-2-((tetrahydro-2H-pyran-4-yl)oxy)pyridine and 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrimidin-2-amine. MS (ESI): mass calcd. for C20H19FN4O2, 366.15; m/z found, 367.1 [M+H]+. 1H NMR (400 MHz, DMSO-d6) δ 8.47 (d, J=1.5, 2H), 8.15 (dd, J=4.9, 1.9, 1H), 7.84 (dd, J=7.4, 1.9, 1H), 7.64-7.48 (m, 3H), 7.07 (dd, J=7.4, 4.9, 1H), 6.86 (s, 2H), 5.30 (m, 1H), 3.81-3.72 (m, 2H), 3.49 (m, 2H), 1.98 (m, 2H), 1.70-1.55 (m, 2H).

reactant | 3-bromo-2-((tetrahydro-2H-pyran-4-yl)oxy)pyridine | BrC=1C(=NC=CC1)OC1CCOCC1 | C10H12BrNO2
reactant | 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrimidin-2-amine | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)C=1C=NC(=NC1)N | C16H19BFN3O2
product | 5-{2-Fluoro-4-[2-(tetrahydro-2H-pyran-4-yloxy)pyridin-3-yl]phenyl}pyrimidin-2-amine | FC1=C(C=CC(=C1)C=1C(=NC=CC1)OC1CCOCC1)C=1C=NC(=NC1)N | C20H19FN4O2
